US06441023B1
[4-(4-Chloro-benzyloxy)-benzenesulfonyl-1-methylpiperidine-4-carboxylic acid was prepared starting from [4-(4-Chloro-benzyloxy)-benzenesulfonyl]-1-methylpiperidine-4-carboxylic acid ethyl ester (10.7 g, 24 mmol) dissolved in THF:Methanol (75: 75 mI) and 10 N NaOH (20 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 4.9 g (50%); off white solid; MS: 426.2 (M+H)+

reactant | [4-(4-Chloro-benzyloxy)-benzenesulfonyl]-1-methylpiperidine-4-carboxylic acid ethyl ester | 24 mmol, 10.7 g | C(C)OC(=O)C1CC(N(CC1)C)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl | C22H26ClNO5S
solvent | THF Methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 20 ml | [OH-].[Na+]
product | 4-(4-Chloro-benzyloxy)-benzenesulfonyl-1-methylpiperidine-4-carboxylic acid | ClC1=CC=C(COC2=CC=C(C=C2)S(=O)(=O)C2N(CCC(C2)C(=O)O)C)C=C1 | C20H22ClNO5S
